US07718704B2
3-{[5-(4-Cyclohexyl-3-trifluoromethyl-benzyloxyimino)-5,6,7,8-tetrahydro-naphthalen-2-ylmethyl]-amino}-propionic Acid
To a solution of 5-oxo-5,6,7,8-tetrahydro-naphthalene-2-carbaldehyde (0.1 mmol) in MeOH (1 mL) is added β-alanine (0.2 mmol) and Et3N (0.16 mmol). The mixture is heated at 50° C. with stirring for 1 hour. After cooling to room temperature, NaBH3CN (0.3 mmol) is added in one portion and the resulting mixture is stirred for 30 minutes. O-(4-Cyclohexyl-3-trifluoromethyl-benzyl)-hydroxylamine (0.12 mmol) is then added to the above reaction mixture and the pH of the solution is tuned to 5-6 by adding AcOH. Purification by preparative LCMS results in 3-{[5-(4-cyclohexyl-3-trifluoromethyl-benzyloxyimino)-5,6,7,8-tetrahydro-naphthalen-2-ylmethyl]-amino}-propionic acid; 1H NMR (600 MHz, CD3OD) δ 8.00 (d, 1 H), 7.65 (s, 1 H), 7.59 (d, 1 H), 7.52 (d, 1 H), 7.35-7.26 (m, 2 H), 5.22 (s, 2 H), 4.21 (s, 2 H), 3.30 (t, 2 H), 2.94 (m, 1 H), 2.78 (m, 6 H), 1.90-1.70 (m, 7 H), 1.60-1.45 (m, 2 H), 1.45-1.30 (m, 3 H); MS (ES+): 503.2 (M+1)+.

reactant | 5-oxo-5,6,7,8-tetrahydro-naphthalene-2-carbaldehyde | 0.1 mmol | O=C1C=2C=CC(=CC2CCC1)C=O | C11H10O2
reactant | β-alanine | 0.2 mmol | NCCC(=O)O | C3H7NO2
reactant | Et3N | 0.16 mmol | CCN(CC)CC | C6H15N
reactant | NaBH3CN | 0.3 mmol | [BH3-]C#N.[Na+]
reactant | O-(4-Cyclohexyl-3-trifluoromethyl-benzyl)-hydroxylamine | 0.12 mmol | C1(CCCCC1)C1=C(C=C(CON)C=C1)C(F)(F)F | C14H18F3NO
solvent | MeOH | 1 mL | CO | CH4O
solvent | AcOH | CC(=O)O | C2H4O2
product | 3-{[5-(4-Cyclohexyl-3-trifluoromethyl-benzyloxyimino)-5,6,7,8-tetrahydro-naphthalen-2-ylmethyl]-amino}-propionic Acid | C1(CCCCC1)C1=C(C=C(CON=C2C=3C=CC(=CC3CCC2)CNCCC(=O)O)C=C1)C(F)(F)F | C28H33F3N2O3
